US07396844B1
Synthesis of N-[2-(3-cyanophenoxy)ethyl]-4-(phenylmethanesulfonylamino)benzamide
670 mg (2.38 mmol) of 4-amino-N-[2-(3-cyanophenoxy)ethyl]benzamide was dissolved in 10 ml of dimethylformamide. 0.42 ml (2.38 mmol) of diisopropylethylamine and 454 mg (2.38 mmol) of α-toluenesulfonyl chloride were added to the solution at 0° C., and they were stirred for 13 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the title compound was obtained.

reactant | 4-amino-N-[2-(3-cyanophenoxy)ethyl]benzamide | 2.38 mmol, 670 mg | NC1=CC=C(C(=O)NCCOC2=CC(=CC=C2)C#N)C=C1 | C16H15N3O2
reactant | diisopropylethylamine | 2.38 mmol, 0.42 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | α-toluenesulfonyl chloride | 2.38 mmol, 454 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-cyanophenoxy)ethyl]-4-(phenylmethanesulfonylamino)benzamide | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)NS(=O)(=O)CC2=CC=CC=C2)=O)C=CC1 | C23H21N3O4S
